US07759379B2
3-[3,3-Dimethyl-1-pyridin-2-ylmethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione
prepared as described for example 96 by reaction of 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione with 2-bromomethylpyridine

reactant | 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione | CC1(CNC2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O)C | C21H24N4O2
reactant | 2-bromomethylpyridine | BrCC1=NC=CC=C1 | C6H6BrN
product | 3-[3,3-Dimethyl-1-pyridin-2-ylmethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione | CC1(CN(C2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O)CC1=NC=CC=C1)C | C27H29N5O2
